US06610692B1
Step B: 5′-Cyano-2′-fluoroacetophenone
To a solution of pyridine (3.52 mL, 43.6 mmol) in CH2Cl2 (10 mL) was added dry chromium trioxide (2.18 g, 21.80 mmol) at 0° C. The reaction mixture was warmed to room temperature and stirred for 30 min. 4-fluoro-3-(1-hydroxyethyl)benzonitrile (600 mg, 3.63 mmol) dissolved in CH2Cl2 (10 mL) was added via canula. The reaction mixture was stirred for 10 min. and was diluted with ether and celite and stirred for an additional 20 min. The reaction mixture was filtered through a pad of celite and washed with ethyl acetate. The organic was washed then with 5% HCl and sat'd NaHCO3, brine, dried over MgSO4, and concentrated in vacuo to provide product:

reactant | pyridine | 43.6 mmol, 3.52 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-fluoro-3-(1-hydroxyethyl)benzonitrile | 3.63 mmol, 600 mg | FC1=C(C=C(C#N)C=C1)C(C)O | C9H8FNO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
catalyst | chromium trioxide | 21.80 mmol, 2.18 g | [O-2].[O-2].[O-2].[Cr+6]
product | 5′-Cyano-2′-fluoroacetophenone | C(#N)C=1C=CC(=C(C1)C(C)=O)F | C9H6FNO
